US05310929
Part B: Preparation of Methyl 4-ethyl-2-propylimidazole-5-carboxylate
93 g of methyl pentynoate and 82 g butyramidoxime are mixed together without solvent and heated to 50° C for 24 hours. 400 mL xylene was added and water was azaeotropically removed for 6 hours. The reaction was then distilled (140° C. at 0.2 torr) to give 44 g product.

reactant | methyl pentynoate | 93 g | C(C#CCC)(=O)OC | C6H8O2
reactant | butyramidoxime | 82 g | C(CCC)(N)=NO | C4H10N2O
solvent | xylene | 400 mL | C=1(C(=CC=CC1)C)C | C8H10
product | Methyl 4-ethyl-2-propylimidazole-5-carboxylate | 44 g | C(C)C=1N=C(NC1C(=O)OC)CCC | C10H16N2O2
